US03963718
A mixture of 15.8 parts β-hydroxy-phenyl-amine, 13 parts 2-nitramino-2-imidazoline and 8 parts xylene is stirred and heated for 30 minutes at 160°C. (oil-bath). After cooling the reaction mixtures to a temperature of about 70°C., there are added 40 parts acetone. The whole is filtered warm and after cooling the filtrate to room temperature, the precipicated product is filtered off and dried, yielding 2-(β-hydroxy-phenethyl-amino)-2-imidazoline; m.p. 147°-149°C.

reactant | 2-nitramino-2-imidazoline | N([N+](=O)[O-])C=1NCCN1 | C3H6N4O2
reactant | xylene | C=1(C(=CC=CC1)C)C | C8H10
reactant | acetone | CC(=O)C | C3H6O
product | 2-(β-hydroxy-phenethyl-amino)-2-imidazoline | OC(CNC=1NCCN1)C1=CC=CC=C1 | C11H15N3O
